* C:\Users\AMAL MADHU\Projectz_101\LTspice-Circuit-Lab\01_Basic_Electronics\01_Linear_Resistor\01_Ideal_Resistor\ideal_resistor_iv.asc
* Generated by LTspice 24.1.10 for Windows.
V1 in 0 10
R1 in 0 1k
.dc V1 -10 10 0.01
.backanno
.end
