* C:\Users\AMAL MADHU\Github_Current_Proj\01_Basic_Electronics\01_Resistor\01_Ideal_Linear_Resistor\simulation\ideal_resistor_iv.asc
* Generated by LTspice 24.1.10 for Windows.
V1 in 0 0
R1 in 0 1k
.dc V1 -10 10 10m
.meas DC I_at_5V FIND I(R1) WHEN V(in)=5
.backanno
.end
