* C:\Users\AMAL MADHU\Github_Current_Proj\01_Basic_Electronics\01_Resistor\02_Series_Parallel_Resistors\simulation\series_parallel_resistors.asc
* Generated by LTspice 24.1.10 for Windows.
V1 n_s0 0 9
R1 n_s0 n_s1 1k
R2 n_s1 0 2k
V2 n_p 0 9
R3 n_p 0 1k
R4 n_p 0 2k
.op
.meas OP I_SERIES FIND I(R1)
.meas OP V_DROP_R1 FIND V(n_s0,n_s1)
.meas OP V_DROP_R2 FIND V(n_s1)
.meas OP I_PARALLEL_R3 FIND I(R3)
.meas OP I_PARALLEL_R4 FIND I(R4)
.meas OP V_PARALLEL FIND V(n_p)
.backanno
.end
